US05310743
(2R*,4S*)-2-Benzyl-1-(2-naphthylacetyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine
105 mg (0.561 mmol) of 2-naphtylacetic acid are reacted in analogy to Example 6 first 92 μl (0.655 mmol) of 1-chloro-N,N,2-trimethyl-1-propen-1-amine and subsequently with 200 mg (0.468 mmol) of (2R*,4S*)-2-benzyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine and 130 μl (0.936 mmol) of triethylamine to give the product. TLC: methylene chloride/methanol/conc. ammonia (700:50:1) Rf =0.56, FD-MS: M+ =595.

reactant | 2-naphtylacetic acid | 0.561 mmol, 105 mg | C1=C(C=CC2=CC=CC=C12)CC(=O)O | C12H10O2
reactant | 1-chloro-N,N,2-trimethyl-1-propen-1-amine | 0.655 mmol, 92 μl | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | (2R*,4S*)-2-benzyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | 0.468 mmol, 200 mg | C(C1=CC=CC=C1)[C@H]1NCC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12 | C24H24F3N3O
reactant | triethylamine | 0.936 mmol, 130 μl | C(C)N(CC)CC | C6H15N
reactant | ammonia | N | H3N
solvent | methylene chloride methanol | C(Cl)Cl.CO
product | (2R*,4S*)-2-Benzyl-1-(2-naphthylacetyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | C(C1=CC=CC=C1)[C@H]1N(CC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12)C(CC1=CC2=CC=CC=C2C=C1)=O | C36H32F3N3O2
